US06506901B2
Step C: (2S)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid Dibenzyl Ester
A solution of N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide (0.0.093 g, 0.4 mmol), (2S)-2-{[4-(4-(formyl)piperidin-1-yl)benzoyl]amino}butanedioic acid dibenzyl ester (0.4 mmol) and glacial acetic acid (0.022 g, 0.4 mmol) in 5 mL methanol was stirred for 1 hour over 4A molecular sieves. In one portion sodium cyanoborohydride (0.025 g, 0.4 mmol) was added and the mixture stirred overnight at ambient temperature. The sieves were filtered and the filtrate was preabsorbed on silica gel. The solids were purified by flash chromatography (CH2Cl2—CH3OH, 19:1). to give the product (0.074 g).

reactant | N-[5-(2-amino-1-{R}-hydroxyethyl)-2-hydroxyphenyl]-methanesulfonamide | 0.4 mmol | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | (2S)-2-{[4-(4-(formyl)piperidin-1-yl)benzoyl]amino}butanedioic acid dibenzyl ester | 0.4 mmol | C(C1=CC=CC=C1)OC([C@H](CC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1CCC(CC1)C=O)=O)=O | C31H32N2O6
reactant | acetic acid | 0.4 mmol, 0.022 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.4 mmol, 0.025 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (2S)-2-{[4-(4-{[((2R)-2-Hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]methyl}piperidin-1-yl)benzoyl]amino}butanedioic Acid Dibenzyl Ester | 0.074 g | C(C1=CC=CC=C1)OC([C@H](CC(=O)OCC1=CC=CC=C1)NC(C1=CC=C(C=C1)N1CCC(CC1)CNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)=O)=O | C40H46N4O9S
